US07893055B2
4-(Azidomethyl)-1-methyl-1H-1,2,3-triazole.
A solution of (1-methyl-1H-1,2,3-triazol-4-yl)methanol (0.62 g, 5.48 mmol) (F. Sternfeld et al. J. Med. Chem. 47, 2004, 216-2179) in tetrahydrofuran (12 ml) was cooled to 0° C. and treated with methanesulfonyl chloride (0.42 ml, 5.50 mmol). Triethylamine (0.75 ml, 5.5 mmol) was then added dropwise and the mixture was stirred for 15 min. The reaction mixture was then diluted with N,N-dimethylformamide (10 ml), treated with sodium azide (0.80 g, 12.3 mmol) and stirred at 22° C. for 18 h. The mixture was then diluted with ethyl acetate washed with water and brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent and chromatography of the residue on silica gel (elution ethyl acetate) gave 0.710 g (94% yield) of the title material as a clear oil. 1HNMR 400 MHz (CDCl3) δ (ppm): 4.15 (3H, s, CH3), 4.51 (2H, s, NCH2), 7.57 (1H, s, CH). MS (ESI+) m/z 139 [M+H+].

reactant | (1-methyl-1H-1,2,3-triazol-4-yl)methanol | 5.48 mmol, 0.62 g | CN1N=NC(=C1)CO | C4H7N3O
reactant | methanesulfonyl chloride | 5.50 mmol, 0.42 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 5.5 mmol, 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 12.3 mmol, 0.80 g | [N-]=[N+]=[N-].[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(Azidomethyl)-1-methyl-1H-1,2,3-triazole | 0.710 g, 94% yield | N(=[N+]=[N-])CC=1N=NN(C1)C | C4H6N6
